US05294626
6-(4-(2-(N-Methyl-4-chlorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)hex-5-enoic acid
2.0 g of 6-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid are stirred overnight in 10 ml of 4N sodium hydroxide solution, 100 ml of methylene chloride, 80 mg of benzyl trimethylammonium chloride and 0.85 g of methyl iodide. Then the organic phase is separated off and the aqueous phase is acidified to pH 5. The product precipitated is separated off and taken up in methylene chloride, dried and evaporated down. Finally, the residue is chromatographed with ethylene chloride/methanol (97:3) over a silica gel column.

reactant | 6-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid | 2.0 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C25H25ClN2O4S
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | methyl iodide | 0.85 g | CI | CH3I
solvent | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
catalyst | benzyl trimethylammonium chloride | 80 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 6-(4-(2-(N-Methyl-4-chlorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)hex-5-enoic acid | CN(CCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C26H27ClN2O4S
